Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
cefazolin / shellfish derived
 
Attending: ___
 
Chief Complaint:
Cholangitis 
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
Mr. ___ is a ___ man with a history of alcoholic 
cirrhosis complicated by chronic ascites and pancreatic cancer 
s/p ___ (___) who is transferred for ERCP with concern for 
cholangitis. He presented on  to ___ on ___ 
after a mechanical fall. He stumbled and hit his nose without 
any loss of consciousness. Head CT was without intracranial 
bleed. He
was also noted to be hyponatremic to 124 and have worsening 
ascites and LFTs. There was no evidence of SBP on diagnostic 
tap. He was found to have Klebsiella bacteremia and was started 
on Zosyn. He had an MRCP that demonstrated new biliary ductal 
dilation with a change in the caliber at the anastomosis with 
the
duodenal limb. He was also noted to have a small nodular opacity 
within the common and right bile duct potentially representing 
sludge or debris. Over his hospitalization, his Na increased 
from 125 to 132. He was also noted to be confused and was 
treated for hepatic encephalopathy. 

In terms of his pancreatic cancer, it was diagnosed in ___ 
after a CT scan performed for evaluation of localized prostate 
cancer revealed concerning pancreatic changes. After further 
imaging, he was evaluated by a multidisciplinary team at ___ 
and he underwent endovascular repair of his aortic aneurysm 
followed by pancreaticoduodenectomy with portal vein 
reconstruction. Pathology revealed ductal adenocarcinoma, 
moderately
differentiated, grade 2. He was started on adjuvant gemcitabine, 
but was admitted during the first two cycles with sepsis of 
likely biliary etiology with enterococcal bacteremia. He also 
developed a pulmonary embolism during his hospitalization that 
was ultimately treated with Lovenox.  Thereafter, he was noted 
to have lower extremity edema and was started on furosemide. 

In ___, he had imaging that revealed a potential liver lesion 
and ascites. He was ultimately diagnosed with cirrhosis, likely 
alcoholic with possible contribution from chemotherapy. His 
ascites improved with furosemide and spironolactone. 

On arrival to the floor, the patient reports feeling tired and 
having some generalized stomach discomfort that he associates 
with his ascites. He also reports pain from hemorrhoids. 

REVIEW OF SYSTEMS: Per HPI, denies fever, chills, night sweats, 
headache, vision changes, rhinorrhea, congestion, sore throat, 
cough, shortness of breath, chest pain, nausea, vomiting, 
diarrhea, BRBPR, melena, hematochezia, dysuria, hematuria.   
 
Past Medical History:
Abdominal aortic aneurysm 
Asthma 
Alcoholic cirrhosis 
Gout
Hypertension
Hearing loss 
Pancreatic cancer s/p Whipple and adjuvant chemo 
Prostate cancer 
 
Social History:
___
Family History:
Also notable for stroke, coronary artery disease, 
hyperlipidemia, MI, CHF, hypertension and renal failure.

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=======================================
VS: 98.1PO 131 / 76 94 18 97 Ra 
GENERAL: frail man in NAD, delayed speech
HEENT: nose with crusted blood, tongue fasciculations, EOMI,
PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: tense ascites with prominent ventral and umbilical
hernias that are reducible  
EXTREMITIES: 2+ pitting edema to shins, R lower leg with covered
wound
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose , mild
asterixis
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAMINATION:  
=======================================
VS: 98.5PO 127 / 55 76 18 94 Ra 
GENERAL: Frail man in NAD, delayed speech
HEENT: Nose with crusted blood, EOMI, PERRL, anicteric sclera,
pink conjunctiva, MMM  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: Few bibasilar crackles, otherwise CTA
ABDOMEN: Soft, NTND, prominent ventral and umbilical
hernias that are reducible  
EXTREMITIES: ___ pitting edema to shins, R lower leg with wound
with sutures, c/d/I no erythema or exudate
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose , mild
asterixis
SKIN: warm and well perfused
 
Pertinent Results:
ADMISSION LABS: 
==========================
___ 10:41PM BLOOD WBC-17.7* RBC-3.15* Hgb-10.0* Hct-30.0* 
MCV-95 MCH-31.7 MCHC-33.3 RDW-16.8* RDWSD-59.1* Plt ___
___ 10:41PM BLOOD Neuts-91.5* Lymphs-1.4* Monos-5.9 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-16.17* AbsLymp-0.24* 
AbsMono-1.05* AbsEos-0.00* AbsBaso-0.02
___ 10:41PM BLOOD ___ PTT-41.2* ___
___ 10:41PM BLOOD Glucose-148* UreaN-27* Creat-1.1 Na-130* 
K-5.5* Cl-96 HCO3-22 AnGap-12
___ 10:41PM BLOOD ALT-49* AST-87* LD(___)-343* AlkPhos-252* 
TotBili-3.5*
___ 10:41PM BLOOD Albumin-2.3* Calcium-7.6* Phos-3.7 Mg-2.0
___ 10:27PM BLOOD Lactate-1.9
___ 04:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 04:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG

IMAGING: 
==========================
ERCP ___
Whipple anatomy encountered as expected. The 
choledochojejunostomy was reached and excellent views were 
obtained; the common hepatic and intrahepatic bile ducts were 
widely patent. Small stone fragment was extracted. No pus was 
seen.   

MICROBIOLOGY: 
==========================
__________________________________________________________
___ 3:11 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID. 

   Fluid Culture in Bottles (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 3:11 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 
__________________________________________________________
___ 5:16 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
__________________________________________________________
___ 6:17 am BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:00 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:41 pm BLOOD CULTURE      Source: Line-Port. 

   Blood Culture, Routine (Pending): 

DISCHARGE LABS: 
==========================
___ 04:15AM BLOOD WBC-10.6* RBC-2.36* Hgb-7.5* Hct-22.8* 
MCV-97 MCH-31.8 MCHC-32.9 RDW-16.8* RDWSD-58.7* Plt Ct-66*
___ 04:15AM BLOOD ___ PTT-72.2* ___
___ 04:15AM BLOOD Glucose-103* UreaN-32* Creat-1.3* Na-134* 
K-4.0 Cl-98 HCO3-23 AnGap-13
___ 04:15AM BLOOD ALT-36 AST-50* LD(LDH)-130 AlkPhos-169* 
TotBili-3.4*
___ 04:15AM BLOOD Albumin-3.1* Calcium-7.6* Phos-3.5 Mg-2.1
___ 04:15AM BLOOD Lipase-10
___ 04:15AM BLOOD Osmolal-285
___ 03:05PM URINE Osmolal-432
___ 03:05PM URINE Hours-RANDOM UreaN-583 Creat-173 Na-<___RIEF HOSPITAL COURSE: 
====================================
Mr. ___ is a ___ man with a history of alcoholic 
cirrhosis complicated by chronic ascites and pancreatic cancer 
s/p Whipple (___) who was transferred from ___ 
with Klebsiella bacteremia and bile duct dilation on MRCP 
concerning for cholangitis. Upon transfer to ___, he underwent 
ERCP on ___. He was transitioned from zosyn to ceftriaxone per 
___ blood cultures. He underwent diagnostic and 
therapeutic paracentesis, negative for SBP with 3L removed on 
___. He was transferred back to ___ per family's 
preference. Patient and family are considering hospice and would 
benefit from further support with the process. 

ACUTE ISSUES: 
====================================
# KLEBSIELLA BACTEREMIA 
# CHOLANGITIS 
Found to have Klebsiella bacteremia with bile duct dilation on 
MRCP at ___, concerning for biliary sepsis/cholangitis, 
now s/p ERCP on ___ with removal of stone fragment/sludge. His 
pain continued to improve following this procedure, and he 
remained afebrile. He was transitioned from zosyn to ceftriaxone 
given pan-sensitive Klebsiella on ___ blood cultures, 
with plan for 14 day course with last day ___ (14d from 
first negative BCx). Surveillance blood cultures were no growth 
to date at discharge. 

# GOALS OF CARE: 
Patient and his family have been considering transition to 
hospice. Please continue these discussions and arrange for 
hospice if that is their wish. 

# ACUTE KIDNEY INJURY: 
Patient's Cr was elevated 1.0-1.3 during admission, from 
baseline 0.7-0.9. Cr worsened with albumin, and he had 
peripheral edema on exam in the seting of holding his diuretics 
given bacteremia. Urine lytes showed prerenal pattern, for which 
patient was given 1g/kg albumin. 

# ALCOHOLIC CIRRHOSIS 
Meld-Na 24 on admission, up from 19 on most recent labs at 
___. 
- HEPATIC ENCEPHALOPATHY: Continued home rifaximin and started 
lactulose. Diagnostic paracentesis was negative for SBP, c. diff 
negative. blood cultures pending. He had no evidence of hepatic 
encephalopathy during admission.  
- GIB/VARICES: EGD (___) showed no varices. If patient does 
not pursue hospice, he would benefit from outpatient screening 
EGD.
- ASCITES/SBP: No history of SBP. Patient underwent diagnostic 
paracentesis negative for SBP and therapeutic paracentesis with 
3L off on ___. His diuretics were held in the setting of 
bacteremia and prerenal azotemia.
- NUTRITION: Poor intake recently with weight loss. Feeding tube 
was not within goals of care. Patient is considering hospice. 

# THROMBOCYTOPENIA: 
Drop in platelets since admission from 122 on ___ to 66 on 
___. Ddx includes secondary to antibiotics v. HIT. Heparin was 
discontinued. No evidence of active bleeding or thrombosis. 

# DIARRHEA
# BRIGHT RED BLOOD PER RECTUM
Patient had large episode of diarrhea ___ with small amount of 
blood around the stool. Rectal exam revealed external 
hemorrhoids, which is the likely source of bleeding. Last EGD 
was ___ without varices. C. diff was negative. Diarrhea 
resolved on its own. 

CHRONIC ISSUES: 
====================================
# DEPRESSION 
Continued Sertraline 25 mg PO/NG DAILY. 

# PROSTATE CANCER 
Patient's capecitabine was held, given it's unclear whether he 
should continue taking this. Consider touching base with his 
outpatient oncologist regarding whether this should be 
continued. 

# PANCREATIC CANCER S/P WHIPPLE 
Continued Creon 12 6 CAP PO TID W/MEALS   

TRANSITIONAL ISSUES:
====================================
DISCHARGE WEIGHT: 65.7kg (145 lb)  
DISCHARGE MELD: 26
DISCHARGE NA: 134
DISCHARGE H/H: 7.5/22.8

[] Please continue discussions regarding hospice with patient 
and his family, and arrange for hospice if that is their wish. 
[] Patient was discharged on ceftriaxone with plan for 14 day 
course for bacteremia, with last day ___.
[] Diuretics: continue to hold in setting of prerenal azotemia.
[] Consider touching base with his outpatient oncologist 
regarding whether this should be continued, particularly if 
hospice is pursued. 
[] If patient decides not to pursue hospice, patient would 
benefit from repeat colonoscopy and EGD as outpatient. 
[] Patient had stitches placed on RLE in the setting of a fall. 
Please remove on ___.

# CODE: DNR/DNI
# CONTACT: ___ (daughter) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Creon 12 6 CAP PO TID W/MEALS 
2. Atorvastatin 40 mg PO QPM 
3. Furosemide 40 mg PO DAILY 
4. Spironolactone 100 mg PO BID 
5. Omeprazole 20 mg PO BID 
6. Rifaximin 550 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. Sertraline 25 mg PO DAILY 
10. Loratadine 10 mg PO DAILY 
11. Klor-Con M20 (potassium chloride) 20 mEq oral DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. Capecitabine unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heart burn, reflux  
2.  CefTRIAXone 2 gm IV Q 24H  
3.  Hydrocortisone (Rectal) 2.5% Cream ___ID:PRN roids   

4.  Lactulose 30 mL PO Q4H  
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Senna 17.2 mg PO HS  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 40 mg PO QPM  
10.  Creon 12 6 CAP PO TID W/MEALS  
11.  Loratadine 10 mg PO DAILY  
12.  Omeprazole 20 mg PO BID  
13.  Polyethylene Glycol 17 g PO DAILY  
14.  Rifaximin 550 mg PO BID  
15.  Sertraline 25 mg PO DAILY  
16.  Tamsulosin 0.4 mg PO QHS  
17. HELD- Capecitabine unknown  PO Frequency is Unknown  This 
medication was held. Do not restart Capecitabine until your 
doctors tells ___ to do so

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# KLEBSIELLA BACTEREMIA 
# CHOLANGITIS 
# ACUTE KIDNEY INJURY
# ALCOHOLIC CIRRHOSIS 
# DIARRHEA
# BRIGHT RED BLOOD PER RECTUM

SECONDARY
# DEPRESSION 
# PROSTATE CANCER
# PANCREATIC CANCER S/P WHIPPLE 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at the ___ 
___. 

WHY WAS I ADMITTED?
- You were transferred here for a procedure called an ERCP. This 
is used to help treat infection in the bile ducts of the liver.
 
WHAT HAPPENED WHILE I WAS IN THE HOSPITAL? 
- You had the ERCP procedure which did not show any blockage in 
your bile ducts, just sludge.
- You were continued on antibiotics for your bile duct 
infection. 
- You had fluid removed from your abdomen. This fluid was not 
infected. 

WHAT SHOULD I DO WHEN I GO HOME? 
- Please take all your medicines as described in this paperwork. 
The ___ team may make additional changes. 
- Please keep all your follow up appointments as listed below. 
- If you decide you prefer to pursue hospice, the ___ 
team will help you arrange this. 

We wish you all the best. 

Sincerely,
Your ___ team
 
Followup Instructions:
___